* SN74LV08A
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: SN74LV08A
* Date: 09/09/2014
* Model Type: All In One
* Simulator: Pspice
* Simulator Version: Pspice 16.2.0.p001
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SCLS387L – September 1997 - Revised October 2010
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : New model
*
************************************************************************* 
************************************************************************
*$
.SUBCKT SN74LV08A A B Y VCC GND
R_RA         0 A  10e6 TC=0,0 
X_U1         A B AND_1 VCC GND SN74LV08A_AND 
R_RB         0 B  10e6 TC=0,0 
X_S1    VCC N00350 AND_2 AND_1 SN74LV08A_S1 
V_V1         N00350 GND 1.2Vdc
X_S2    VCC N03359 Y AND_2 SN74LV08A_S2 
C_CA         0 A  3p  TC=0,0 
C_CB         0 B  3p  TC=0,0 
V_V2         N03359 GND 5Vdc
.ENDS
*$
***
.subckt SN74LV08A_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1.0V
.ends
*$
***
.subckt SN74LV08A_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e6 Ron=1.0 Voff=1.0V Von=0.0V
.ends
*$
***
.SUBCKT SN74LV08A_AND A B Y VCC GND
ET NT GND VALUE = {0.5*V(VCC,GND)}
RQ VCC GND 1.1e6
EA NA GND VALUE = {0.5*(SGN(V(A,GND)- V(NT,GND))+1)}
EB NB GND VALUE = {0.5*(SGN(V(B,GND)- V(NT,GND))+1)}
EO NO GND VALUE = {V(NA,GND)*V(NB,GND)*V(VCC,GND)}
RO1 NO NO1 50
RO2 NO1 Y 50
CO NO1 GND 0.1f
.ENDS
*$

